US08106066B2
Sodium hydride (417 mmol) was added to a solution of ethyl 3-oxobutanoate (129 mmol) in tetrahydrofuran (350 mL). 1-Chloro-2,4-dinitrobenzene (123 mmol) was added and the resulting suspension was maintained for 24 h at rt. The pH was adjusted to 5 by the addition of 3 M hydrochloric acid and the resulting solution was extracted with diethyl ether (300 mL). The organic layer was washed with water (3×300 mL), dried (magnesium sulfate), and concentrated to provide ethyl 2-(2,4-dinitrophenyl)-3-oxobutanoate in 98% yield as a brown solid.

reactant | Sodium hydride | 417 mmol | [H-].[Na+]
reactant | ethyl 3-oxobutanoate | 129 mmol | O=C(CC(=O)OCC)C | C6H10O3
reactant | 1-Chloro-2,4-dinitrobenzene | 123 mmol | ClC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | hydrochloric acid | 3 M | Cl | ClH
solvent | tetrahydrofuran | 350 mL | O1CCCC1 | C4H8O
product | ethyl 2-(2,4-dinitrophenyl)-3-oxobutanoate | 98% yield | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])C(C(=O)OCC)C(C)=O | C12H12N2O7
